US04610984
4-Aminocarbonyl-piperazin-1-yl-acetic acid morpholide
9.1 g of piperazin-1-yl-acetic acid morpholide are dissolved in 30 ml of water and 4.4 ml of concentrated hydrochloric acid and the solution is cooled to 20° C. A solution of 3.1 g of potassium cyanate in 15 ml of water is slowly added dropwise, with cooling. A further 4.4 ml of concentrated hydrochloric acid are then added and the mixture is left to stand overnight at 20° C. The solution is rendered neutral with 2N sodium hydroxide solution and concentrated. Boiling up of the solid residue with isopropanol and cooling of the solution gives 5.3 g of colourless crystals, which are recrystallised from ethanol.

reactant | piperazin-1-yl-acetic acid morpholide | 9.1 g | N1(CCNCC1)CC(=O)N1CCOCC1 | C10H19N3O2
reactant | hydrochloric acid | 4.4 ml | Cl | ClH
reactant | potassium cyanate | 3.1 g | [O-]C#N.[K+]
reactant | hydrochloric acid | 4.4 ml | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 4-Aminocarbonyl-piperazin-1-yl-acetic acid morpholide | 5.3 g | NC(=O)N1CCN(CC1)CC(=O)N1CCOCC1 | C11H20N4O3
